US04483867
1,1-Ethandiol bis-(trans-4-cyanocyclohexanecarboxylate)
Trans-4-cyanocyclohexanecarboxylic acid (11.5 g; 0.075 mol) and tetrabutylammonium hydrogen sulfate (25.5 g; 0.075 mol) was dissolved in 2M sodium hydroxide and extracted with ethanolfree chloroform. The chloroform solution was dried and the solvent evaporated. The residue was dissolved in trichloroethylene (600 ml) and 1-(trans-4-cyanocyclohexanoyloxy)ethyl chloride (10.8 g; 0.05 mol) was added. The solution was refluxed for 8 h. It was then washed, dried and evaporated. Yield 17.1 g, m.p. 75°-76° C.

reactant | Trans-4-cyanocyclohexanecarboxylic acid | 0.075 mol, 11.5 g | C(#N)[C@@H]1CC[C@H](CC1)C(=O)O | C8H11NO2
reactant | 1-(trans-4-cyanocyclohexanoyloxy)ethyl chloride | 0.05 mol, 10.8 g | C(#N)[C@@H]1CC[C@H](CC1)C(=O)OC(C)Cl | C10H14ClNO2
catalyst | tetrabutylammonium hydrogen sulfate | 0.075 mol, 25.5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 2M | [OH-].[Na+]
product | 1,1-Ethandiol bis-(trans-4-cyanocyclohexanecarboxylate) | C(#N)[C@@H]1CC[C@H](CC1)C(=O)OC(C)OC(=O)[C@@H]1CC[C@H](CC1)C#N | C18H24N2O4
